data/mechanism_extracts/JACS/10.1021_jacs.3c02961.json
{"doi": "10.1021_jacs.3c02961", "journal": "JACS", "is_review": false, "rxn_class_summary": "Visible-light-mediated ortho-[2π+2σ] dearomative photocycloaddition of bicyclic aza-arenes (quinolines, isoquinolines, etc.) with bicyclobutanes (BCBs) to give bicyclo[2.1.1]hexane (BCH)-fused dihydroquinolines", "mechanism_family": ["photoredox_combined", "biradical", "radical_cation"], "electrochemical_role": null, "key_intermediates": [{"name": "Triplet-excited quinoline diradical (IM1-T1)", "smiles": null, "role": "reactive"}, {"name": "BCB ground-state substrate (IM2-S0)", "smiles": null, "role": "reactive"}, {"name": "Quinoline-BCB pre-association complex IM3-T1", "smiles": null, "role": "transient"}, {"name": "TS1 — concerted C–C bond formation / BCB σ-bond cleavage (triplet)", "smiles": null, "role": "transient"}, {"name": "Open-shell 1,4-biradical IM4-T1 (post BCB ring-opening)", "smiles": null, "role": "reactive"}, {"name": "MECP IM4-[2-2] (ortho-selective crossing point)", "smiles": null, "role": "transient"}, {"name": "MECP IM4-[2-4] (para-selective crossing point)", "smiles": null, "role": "off_pathway"}, {"name": "Ortho cycloadduct IM5-S0 (observed product)", "smiles": null, "role": "reactive"}, {"name": "Para cycloadduct IM6-S0", "smiles": null, "role": "off_pathway"}, {"name": "Quinoline radical cation (B/C in chain mechanism)", "smiles": null, "role": "reactive"}, {"name": "Cyclobutane-containing radical cation D (chain intermediate)", "smiles": null, "role": "transient"}, {"name": "BCH radical cation G (cyclized chain carrier)", "smiles": null, "role": "transient"}, {"name": "Ir-F photocatalyst excited state *Ir(III)", "smiles": null, "role": "reactive"}], "electron_flow": "Photoexcited Ir-F* sensitizes the quinoline by triplet energy transfer to give an activated diradical, which adds across the BCB central σ-bond via a concerted TS1 to form a triplet 1,4-biradical; ISC at a minimum-energy crossing point (favoring the ortho [2-2] geometry) and radical–radical recombination deliver the BCH-fused dihydroquinoline. In a parallel two-photon-initiated chain, *Ir-F oxidizes the excited quinoline to a radical cation that adds to BCB; cyclization and SET to ground-state quinoline propagate the chain (Brønsted/Lewis acids lower triplet energy and TS1, boosting the chain).", "rate_determining_step": "Concerted BCB addition transition state TS1 (C–C bond formation with BCB σ-bond cleavage), ΔG‡ = 18.2 kcal/mol; lowered to 12.3 (H+) and 16.4 (Sc(OTf)3) kcal/mol by acid additives", "probe_reagents": [{"name": "Sc(OTf)3 (Lewis acid additive)", "smiles": "[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F", "purpose": "other", "observation": "Bathochromic shift in UV/vis enabling direct excitation at 450 nm; lowers triplet energy of quinoline by 10.5 kcal/mol and TS1 by 1.8 kcal/mol; raises quantum yield from 0.20 to 8.8 (with Ir-F) indicating chain propagation"}, {"name": "p-TsOH·H2O (Brønsted acid)", "smiles": "Cc1ccc(S(=O)(=O)O)cc1.O", "purpose": "other", "observation": "Decreases triplet energy by 3.2 kcal/mol and TS1 by 5.9 kcal/mol; Φ = 7.7"}, {"name": "Pyrazole (nucleophile trap)", "smiles": "c1cc[nH]n1", "purpose": "intermediate_trap", "observation": "Trapping experiments with 6-methoxyquinoline support intermediacy of a quinoline radical cation generated by Ir-F oxidation (biphotonic pathway)"}, {"name": "Light-intensity variation", "smiles": null, "purpose": "other", "observation": "Initial rate ∝ P^0.85 (450 nm) and ∝ P^1.0 (415 nm), inconsistent with purely biphotonic (P^2) — supports parallel one-photon EnT and two-photon chain pathways"}, {"name": "Stern–Volmer quenching study", "smiles": null, "purpose": "other", "observation": "Excited *Ir-F is quenched by quinoline 1a but not by BCB 2a"}, {"name": "Cyclic voltammetry of 1a", "smiles": null, "purpose": "redox_probe", "observation": "Ground-state SET between *Ir-F and quinoline is thermodynamically unfavorable, supporting EnT for the main cycle; only triplet sensitizers (~60 kcal/mol) that are also strongly oxidizing initiate the chain"}, {"name": "Photocatalyst screen / triplet-energy correlation", "smiles": null, "purpose": "other", "observation": "Yield correlates with increasing triplet-state energy of photocatalyst"}, {"name": "Thermal control (MeCN, 100 °C, no light)", "smiles": null, "purpose": "other", "observation": "No background thermal reactivity — rules out ground-state pathway"}], "evidence_types_used": ["DFT", "UV_vis", "cyclic_voltammetry", "kinetic_order", "intermediate_trap_other", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Two mechanisms are proposed to operate in parallel. (1) Favored under standard conditions: triplet energy transfer from *Ir-F to the bicyclic aza-arene, concerted-like BCB addition through TS1 to a triplet biradical IM4-T1, then ISC via a [2-2] minimum-energy crossing point (MECP) to give the ortho cycloadduct IM5; the alternative [2-4] MECP would give the para isomer IM6 (less stable by ~10 kcal/mol and higher in MECP energy), rationalizing ortho selectivity. Regioselectivity correlates with computed C8 spin density (0.76 on 7-OMe quinoline). (2) Two-photon-initiated radical-chain pathway: *Ir-F oxidizes excited quinoline to a radical cation (C), which adds to BCB at C3 (highest spin density at C8), cyclization gives BCH radical cation G, and SET to ground-state quinoline propagates the chain. Acids (Brønsted H+ or Lewis Sc(OTf)3) coordinate the quinoline N, lower triplet energy and TS1, and dramatically enhance the chain (Φ up to 8.8). The exact role of acid in chain propagation is acknowledged as speculative."}
